US04585780
3-Hydroxy-1-(5'-hydroxypentyl)-2-methylpyrid-4-one, prepared as described under Example 14, (2 g) is dissolved in glacial acetic acid containing about 1% w/v of hydrogen bromide and the solution is refluxed for 2 hours. The resultant mixture is subjected to rotary evaporation and the residue crystallised from aqueous ethanol to give 1-(5'-acetoxypentyl)-3-hydroxy-2-methylpyrid-4-one in 65% yield, m.p. 132°-133° C., νmax (nujol) 1520, 1540, 1580, 1635, 1735 cm-1 and δ(d6DMSO), 1.6 (m, 6H), 2.1 (s, 3H), 2.4 (s, 3H), 4.05 (m, 4H), 6.4 (d, 1H), 7.3 (d, 1H).

reactant | 3-Hydroxy-1-(5'-hydroxypentyl)-2-methylpyrid-4-one | OC1=C(N(C=CC1=O)CCCCCO)C | C11H17NO3
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(5'-acetoxypentyl)-3-hydroxy-2-methylpyrid-4-one | 65% yield | C(C)(=O)OCCCCCN1C(=C(C(C=C1)=O)O)C | C13H19NO4
